US08557876B2
A 100 mL reaction flask is charged with 4,4-dimethyl-pentan-2-one (10 g, 0.1 mol), formamidine acetate (57 g, 0.5 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 4-(2,2-dimethyl-propyl)-pyrimidine (˜5 g) is obtained.

reactant | 4,4-dimethyl-pentan-2-one | 0.1 mol, 10 g | CC(CC(C)=O)(C)C | C7H14O
reactant | formamidine acetate | 0.5 mol, 57 g | C(C)(=O)O.C(=N)N
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 4-(2,2-dimethyl-propyl)-pyrimidine | ˜5 g | CC(CC1=NC=NC=C1)(C)C | C9H14N2
